US05155122
5-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2(3H)-thione (3.0 g, 0.0093 mole) in tetrahydrofuran (15 ml) is added dropwise to a stirred 0° C. suspension of sodium hydride (0.37 g of a 60% dispersion in mineral oil, 0.0093 mole) in tetrahydrofuran (15 ml) under nitrogen. After 30 minutes, a solution of iodomethane (1.5 g, 0.0102 mole) in tetrahydrofuran (5 ml) is added dropwise. After stirring one hour at 0° C., ether (20 ml) is added and the resulting mixture is washed with aqueous 2M HCl (10 ml), saturated aqueous NaCl, and dried over MgSO4. Filtration and concentration in vacuo, followed by recrystallization from ether/hexane gives 2.6 g of 2,6-bis(1,1-dimethylethyl)-4-[5-(methylthio)-1,3,4-thiadiazol-2-yl]phenol (3.1 g, theor., 83%), mp 122°-122.5° C.

reactant | 5-[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-1,3,4-thiadiazole-2(3H)-thione | 0.0093 mole, 3.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NNC(S1)=S | C16H22N2OS2
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 0.0102 mole, 1.5 g | IC | CH3I
reactant | ether | 20 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,6-bis(1,1-dimethylethyl)-4-[5-(methylthio)-1,3,4-thiadiazol-2-yl]phenol | 2.6 g, 83% | CC(C)(C)C1=C(C(=CC(=C1)C=1SC(=NN1)SC)C(C)(C)C)O | C17H24N2OS2
